US04161608
Dimethyl trans-2-{3-[(Tetrahydropyran-2-yl)oxy]-1-octenyl}cyclopropane-1,1-dicarboxylate [II, R2 =H, R4 =CH3, R5 =tetrahydropyran-2-yl and (c)=(CH2)4 ]
A solution of dimethyl trans-2-(3-hydroxy-1-octenyl)cyclopropane-1,1-dicarboxylate (22.4 g), described in Example 42, dihydropyran (80 ml, distilled over sodium) and p-toluenesulfonic acid monohydrate (300 mg) is allowed to stand at room temperature for 30 min. After adding a few ml of 10% Na2CO3 solution the mixture is extracted with ether. The ether extract is washed with water, dried (Na2SO4) and evaporated. Purification of the residue by chromatography on silica gel gives the title compound.

reactant | dimethyl trans-2-(3-hydroxy-1-octenyl)cyclopropane-1,1-dicarboxylate | 22.4 g | OC(/C=C/C1C(C1)(C(=O)OC)C(=O)OC)CCCCC | C15H24O5
reactant | p-toluenesulfonic acid monohydrate | 300 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dihydropyran | 80 ml | O1CCCC=C1 | C5H8O
product | Dimethyl trans-2-{3-[(Tetrahydropyran-2-yl)oxy]-1-octenyl}cyclopropane-1,1-dicarboxylate | O1C(CCCC1)OC(/C=C/C1C(C1)(C(=O)OC)C(=O)OC)CCCCC | C20H32O6
